US06548694B2
To a solution of 49 g (RS)-[3-(tert-butyl-diphenyl-silanyloxy)-2-fluoro-5-hydroxy-phenyl]-(4-cyano-phenylamino)-acetic acid ethyl ester described in example 3.3 in 900 ml THF 24.86 g triphenylphosphine, 5.53 ml EtOH and 21.82 g di-tert-butyl azodicarboxylate were added sequentially. The solution was stirred for 4 hrs at room temperature and then evaporated. The crude product was purified by chromatography on silica gel (cyclohexane/EtOAc) to yield 27.6 g (RS)-[3-(tert-butyl-diphenyl-silanyloxy)-5-ethoxy-2-fluoro-phenyl]-(4-cyano-phenylamino)-acetic acid ethyl ester as slightly yellow, amorphous solid.

reactant | (RS)-[3-(tert-butyl-diphenyl-silanyloxy)-2-fluoro-5-hydroxy-phenyl]-(4-cyano-phenylamino)-acetic acid ethyl ester | 49 g | C(C)OC(C(NC1=CC=C(C=C1)C#N)C1=C(C(=CC(=C1)O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)F)=O | C33H33FN2O4Si
reactant | EtOH | 5.53 ml | CCO | C2H6O
reactant | di-tert-butyl azodicarboxylate | 21.82 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 900 ml, 24.86 g | C1CCOC1 | C4H8O
product | (RS)-[3-(tert-butyl-diphenyl-silanyloxy)-5-ethoxy-2-fluoro-phenyl]-(4-cyano-phenylamino)-acetic acid ethyl ester | 27.6 g | C(C)OC(C(NC1=CC=C(C=C1)C#N)C1=C(C(=CC(=C1)OCC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)F)=O | C35H37FN2O4Si
